US07842758B2
4-Ethynylbenzo[c][1,2,5]thiadiazole (10)
4-(Trimethylsilyl)ethynylbenzo[c][1,2,5]-thiadiazole (0.100 g, 4.30×10−4 mol), K2CO3 (78.6 mg, 5.71×10−4 mol), THF (3 ml), and MeOH (2 ml) were added to a 25-ml Schlenk tube. The mixture was purged with N2 for 5 min, following which the reaction was stirred at room temperature for 1.5 h. The reaction mixture was then filtered, evaporated, and chromatographed on silica gel using 5:1 hexanes:THF as the eluent. Yield=63 g (91.4% based on 0.100 g of 4-(trimethylsilyl)ethynylbenzothiadiazole). 1H NMR (500 MHz, CDCl3): δ 8.01 (m, 1H, Ph-H), 7.78 (m, 1H, Ph-H), 7.56 (m, 1H, Ph-H), 3.56 (s, 1H, —CC—H).

reactant | 4-(Trimethylsilyl)ethynylbenzo[c][1,2,5]-thiadiazole | 4.30×10−4 mol, 0.100 g | C[Si](C)(C)C#CC1=CC=CC2=NSN=C21 | C11H12N2SSi
reactant | K2CO3 | 5.71×10−4 mol, 78.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2 ml | CO | CH4O
product | 4-Ethynylbenzo[c][1,2,5]thiadiazole | C(#C)C1=CC=CC2=NSN=C21 | C8H4N2S
